Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
 dyspnea on exertion 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old woman s/p robotic radical cystectomy 
___ (with ileal conduit creation) with postop course 
complicated by bacteremia and abscess, LLE DVT (on prophylactic 
dosing lovenox) who presents with dyspnea on exertion for past 3 
days. 

Briefly, patient was initially admitted to the Urology service 
from ___ for robotic anterior exenteration with ileal 
conduit. She was discharged to rehab on prophylactic dosing 
lovenox for 1 month. She was then readmitted from ___ for 
ileus requiring NGT decompression, TPN. BCx grew Citrobacter, 
for which CTX was started. CT showed intra-abdominal, interloop, 
simple fluid collection and LLQ drain was placed by ___. Patient 
improved, passing BMs and tolerating PO, and was discharged on 
cipro/flagyl. She was also discharged on PO Bactrim for presumed 
UTI, though unclear if she actually took this. During this 
admission, she was noted to have new bilateral ___ edema. LENIs 
at the time showed aute deep vein thrombosis of the duplicated 
mid and distal left femoral veins. She was discharged on  
Enoxaparin Sodium 40 mg SC daily. She reports that her PCP 
started PO ___ 20mg daily and since then there has been 
improvement of the swelling. Per her report, a repeat ___ at 
the rehab facility (___) was negative for DVT.

Patient reports that she recovered well post-operatively and was 
doing well at her assisted living facility up until a week ago 
when she began experiencing dyspnea on exertion. She states that 
she typically is able to ambulate a block before stopping to 
catch her breath, however in the past week she has been unable 
to take more than a few steps. She states that it has become 
increasingly more difficult to ambulate from her bedroom to the 
bathroom. When visited by the NP her ambulatory saturation was 
noted to be in the ___ with associated tachycardia to 110, 
pallor and diaphoresis. She endorses associated leg swelling 
left worse than right, and she states that her thighs "feel 
heavy". She denies any associated chest pain, fever, chills, 
pain with deep inspiration, abdominal pain, rashes, dizziness, 
lightheadedness.  

In the ED, initial VS were: 97.7 72 136/93 20 100% Nasal Cannula 

ED physical exam was recorded as patient resting comfortably 
with NC, pursed lip breathing, unable to speak in full sentences 
before becoming short of breath, urostomy pouch in RLQ, stoma 
pink, 2+ edema to bilateral lower extremities L>R. 

ED labs were notable for: Hb 9, Hct 29, plt 479, UA: large ___, 
>182 WBC, many bact 0 epi. Trop neg x1, proBNP normal

CTA chest showed:
1. Extensive pulmonary embolism with thrombus seen extending 
from the right main pulmonary artery into the segmental and 
subsegmental right upper, middle, and lower lobe pulmonary 
arteries. No right heart strain identified. 2. Additionally, 
there are smaller pulmonary emboli seen in the segmental and 
subsegmental branches of the left upper and lower lobes. 3. 
Several pulmonary nodules are noted, as noted previously, with 
the largest appearing spiculated and measuring up to 1 cm in the 
right middle lobe, suspicious for malignancy on the previous 
PET-CT. 4. Re- demonstration of 2 left breast nodules for which 
correlation with mammography and ultrasound is suggested.

EKG showed NSR with frequent PAC

Patient was given:
___ 20:26 PO/NG Ciprofloxacin HCl 500 mg 
___ 20:26 IV Heparin 6600 UNIT 
___ 20:26 IV Heparin  

Transfer VS were: 98.1 77 145/63 20 99% Nasal Cannula 
 When seen on the floor, she reports significant dyspnea with 
minimal exertion. Denies chest pain, palpitations, 
lightheadedness.
A ten point ROS was conducted and was negative except as above 
in the HPI.
 
Past Medical History:
Hypertension, laparoscopic cholecystectomy, left knee 
replacement six to ___ years ago, laminectomy of L5-S1 at age 
___, two vaginal deliveries.

s/p ___: 
1.  Robot-assisted laparoscopic bilateral pelvic lymph node 
dissection.
2. Robot-assisted hysterectomy and bilateral oophorectomy for 
large uterus, greater than 300 grams, with large fibroid.
3. Laparoscopic radical cystectomy and anterior vaginectomy with 
vaginal reconstruction.

 
Social History:
___
Family History:
Negative for bladder CA.

 
Physical Exam:
ADMISSION EXAM:
 Gen: NAD, speaking in 3 word sentences, pursed lip breathing, 
no accessory muscle use, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, 1+ edema bilaterally with 
compression stockings in place, no JVD 
 Resp: normal effort, no accessory muscle use, lungs CTA ___ to 
anterior auscultation.
 GI: soft, NT, ND, BS+. Urostomy site does not appear infected
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect 

DISCHARGE EXAM:
vitals: 98.3 140/42 90 24 96% 1L
Gen: Lying in bed in no apparent distress
HEENT: Anicteric, MMM
Cardiovascular: RRR normal S1, S2, no right sided heave, ___ 
systolic murmur 
Pulmonary: Lung fields clear to auscultation throughout. No 
crackles or wheezing. 
GI: Soft, distended, nontender, bowel sounds present, urostomy 
in place.
Extremities: no edema, though left leg appears larger than right 
leg, warm, well perfused with motor function intact. Her left 
lower leg is wrapped. 

 
Pertinent Results:
LABS:
==========================
Admission labs:
___ 02:40PM   GLUCOSE-101* UREA N-22* CREAT-0.7 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-98 TOTAL CO2-22 ANION GAP-20
___ 02:40PM   cTropnT-<0.01
___ 02:40PM   proBNP-567
___ 02:40PM   WBC-7.7 RBC-3.07* HGB-9.0* HCT-29.1* MCV-95 
MCH-29.3 MCHC-30.9* RDW-14.9 RDWSD-52.1*
___ 02:40PM   PLT COUNT-479*
___ 02:40PM   ___ PTT-33.4 ___

Discharge labs:
___ 06:55AM BLOOD WBC-11.0* RBC-2.60* Hgb-7.5* Hct-24.5* 
MCV-94 MCH-28.8 MCHC-30.6* RDW-14.8 RDWSD-51.4* Plt ___
___ 06:55AM BLOOD Glucose-99 UreaN-10 Creat-0.5 Na-141 
K-4.3 Cl-105 HCO3-26 AnGap-14
___ 06:55AM BLOOD Calcium-8.2* Phos-3.8 Mg-2.0
___ 07:15AM BLOOD calTIBC-134* Ferritn-507* TRF-103*
___ 07:15AM BLOOD Iron-18*

MICROBIOLOGY
==========================
___ 4:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 
         PREDOMINATING ORGANISM INTERPRET RESULTS WITH CAUTION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S

IMAGING
==========================
___ CXR
IMPRESSION: Hilar congestion without frank edema.  No convincing 
signs of pneumonia.

___ CTA chest showed:
1. Extensive pulmonary embolism with thrombus seen extending 
from the right main pulmonary artery into the segmental and 
subsegmental right upper, middle, and lower lobe pulmonary 
arteries. No right heart strain identified. 2. Additionally, 
there are smaller pulmonary emboli seen in the segmental and 
subsegmental branches of the left upper and lower lobes. 3. 
Several pulmonary nodules are noted, as noted previously, with 
the largest appearing spiculated and measuring up to 1 cm in the 
right middle lobe, suspicious for malignancy on the previous 
PET-CT. 4. Re- demonstration of 2 left breast nodules for which 
correlation with mammography and ultrasound is suggested.

___ ___:
IMPRESSION:
1. Interval progression of deep vein thrombosis in the left 
lower extremity, with occlusive thrombus involving the entire 
femoral vein, previously only involving the mid and distal 
femoral vein.  There is additional nonocclusive thrombus in the 
deep femoral vein.  The left common femoral and popliteal veins 
are patent.
2. The bilateral calf veins were not visualized due to an 
overlying dressing. Otherwise no evidence of deep venous 
thrombosis in the right lower extremity.

___ TTE:
Conclusions
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size, and global systolic function are normal (LVEF>55%). 
Doppler parameters are most consistent with Grade I (mild) left 
ventricular diastolic dysfunction. Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
are mildly thickened (?#). There is no aortic valve stenosis. 
Trivial mitral regurgitation is seen. There is mild pulmonary 
artery systolic hypertension. 

___ CXR
IMPRESSION: 
Compared to chest radiographs ___ through ___. 
Heart size top-normal.  Lungs grossly clear.  No pleural 
abnormality or evidence of central lymph node enlargement.

 
Brief Hospital Course:
Ms. ___ is a ___ woman s/p robotic radical cystectomy 
___omplicated by bacteremia and 
abscess, LLE DVT, currently on daily lovenox who presents with 
dyspnea on exertion and dyspnea on exertion and found to have 
large PE and progression of DVT.

# PE/DVT: Likely due to undertreatment of known LLE DVT with 
prophylactic dosing of lovenox. Given underdosing of lovenox, 
this was not thought to be treatment failure and IVC filter was 
deferred. She had no signs of right heart strain on imaging, 
EKG, exam. TTE showed no evidence of right heart strain. She was 
treated with a heparin gtt, then transitioned to treatment dose 
lovenox given malignancy associated thrombosis as noted in CLOT 
trial. She is quite symptomatic and requires oxygen 
supplementation, though improved during hospitalization. Please 
wean oxygen as tolerated.

# Pulmonary nodules: Known spiculated masses that were noted on 
CT in ___, concerning for primary lung malignancy vs mets. 
Current CT showed stable nodules still concerning for 
malignancy. She was evaluated by the thoracic team who 
recommended CT biopsy vs. surveillance. Given her current 
PE/DVT, the family and the patient decided for surveillance at 
this time. They will follow up with her primary care provider. 

# Enterococcal UTI
She was noted to have rising WBC in the setting of UCX from 
urostomy growing Enterococcus. Given her rising leukocytosis, we 
proceeded with treatment. She was started on IV Ampicillin and 
transitioned to macrobid, based on sensitivies. Leukocytosis 
improved on antibiotics. She should complete a 7 day course (day 
1: ___, day 7: ___. 

# Normocytic Anemia: No signs of bleeding, or hemolysis. Hb 
dropped to nadir of 7.3, stable at discharge at 7.5. Iron 
studies consistent with likely combination iron deficiency 
anemia and anemia of chronic disease with low iron but elevated 
ferritin and low TIBC. Would recommend checking again as 
outpatient and work-up as needed.

# ___ swelling: Likley multifactorial including venous 
insufficiency, as well as known LLE DVT. She responded quite 
well with compression stockings.

# Hx of bladder cancer: s/p ___ TURBT, high-grade TCC, T1 
(no muscle identified). Then in ___, pelvic MRI showed 
bladder mass invasion, perivesical soft tissue, anterior vaginal 
wall on right (C/W T4 lesion). In ___, underwent robotic 
TAH-BSO, lap radical cystectomy and anterior vaginectomy with 
pathology showing pT2b, node and margins negative. No plan for 
any further therapy at this time per Dr ___.

The patient is safe to discharge today, and >30min were spent on 
discharge day management services.

Transitional issues:
- She will need follow up chest CT for pulmonary nodules in 3 
months (___)
- To complete 7 day course for UTI with macrobid (day 7: ___
- Continue oxygen therapy and wean as tolerated to maintain O2 
sat > 92% 
- Please check CBC on ___ to ensure stability of h/h 
and demonstrate resolution of leukocytosis
- HCP: son, Dr. ___ ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q6H 
2. Docusate Sodium 100 mg PO BID 
3. Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
4. Levothyroxine Sodium 175 mcg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Losartan Potassium 50 mg PO DAILY 
7. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

8. LORazepam 0.25 mg PO BID:PRN anxiety 
9. Senna 8.6 mg PO BID 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
Last day: ___.  Enoxaparin Sodium 90 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
3.  LORazepam 0.25 mg PO QHS:PRN insomnia 
RX *lorazepam 0.5 mg 0.5 (One half) tab by mouth QHS:prn Disp 
#*3 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q6H  
5.  Atorvastatin 10 mg PO QPM  
6.  Docusate Sodium 100 mg PO BID  
7.  Levothyroxine Sodium 175 mcg PO DAILY  
8.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q8H:prn Disp #*3 Tablet 
Refills:*0 
9.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PE
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___ it was a pleasure taking care you during your 
admission to ___. You were admitted for a clot in your lungs 
and leg. You were treated with a blood thinner. You will need to 
continue the blood thinner. You were also treated for a urinary 
tract infection. For your pulmonary nodules, you should follow 
up with your primary care doctor. 
 
Followup Instructions:
___